US07199150B2
3-(4-Methylphenyloxy)-1-propyne
The title compound was synthesized using 4-methylphenol and propargyl alcohol by conducting a reaction similar to that mentioned in Reference example 35.

reactant | 4-methylphenol | CC1=CC=C(C=C1)O | C7H8O
reactant | propargyl alcohol | C(C#C)O | C3H4O
product | 3-(4-Methylphenyloxy)-1-propyne | CC1=CC=C(C=C1)OCC#C | C10H10O
